* source TLV1701
.EXTERNAL INPUT OUT
.EXTERNAL INPUT V+
.EXTERNAL INPUT IN+
.EXTERNAL INPUT IN-
.EXTERNAL INPUT V-
X_U1         IN+ IN- V+ V- OUT TLV1701
R_R3         N834155 OUT  10k TC=0,0 
V_VINN1         N834155 0 3.3
V_V+1         V- 0 -12
V_VINN         IN- 0 12
V_V+         V+ 0 24
V_V1         IN+ 0  
+PULSE 11.9 12.1 0 10p 10p 10u 20u
